US04562004
48.5 g (68.5 millimoles) of 2,3,5,6-tetra-(benzoylthiomethyl)-p-benzoquinone were suspended in 450 ml of ethylene glycol, and 32.8 g (411 millimoles) of 50% strength sodium hydroxide solution were added, while stirring thoroughly. A strong jet of compressed air was then passed through the reaction mixture, and the latter was slowly heated up. At an internal temperature of 70° C., the dark mixture became homogeneous. The internal temperature was increased to 90°-100° C., and thorough stirring was continued at this temperature for 5 hours, while compressed air was continuously passed through. The mixture was cooled, 700 ml of water were added and stirring was continued for a further 0.5 hour, while cooling with ice. The solid material was filtered off under suction and washed with a large amount of water. 11.0 g (73%) of 4,8-dihydrobenzo[1,2-c:4,5-c']dithiophene-4,8-dione of melting point 340° C. were isolated.

reactant | 2,3,5,6-tetra-(benzoylthiomethyl)-p-benzoquinone | 68.5 millimoles, 48.5 g | C(C1=CC=CC=C1)(=O)SCC=1C(C(=C(C(C1CSC(C1=CC=CC=C1)=O)=O)CSC(C1=CC=CC=C1)=O)CSC(C1=CC=CC=C1)=O)=O | C38H28O6S4
reactant | sodium hydroxide | [OH-].[Na+]
reactant | water | 700 ml | O | H2O
solvent | ethylene glycol | 450 ml | C(CO)O | C2H6O2
product | 4,8-dihydrobenzo[1,2-c:4,5-c']dithiophene-4,8-dione | 11.0 g, 73% | C1=C2C(=CS1)C(C=1C(=CSC1)C2=O)=O | C10H4O2S2
